US07208494B2
(4R,9aR)-7-Hydroxy-4,6-dimethyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
A stirred solution of 5.40 g (14.1 mmol) (4R,9aR)-7-bromo-4,6-dimethyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 350 mL diethyl ether was cooled to −100 deg C. and 6.30 mL (5.13 g, 27.7 mmol) triisopropyl borate was added. To this solution, 11.3 mL (16.9 mmol) tert-butyllithium (1.5 M in n-pentane) was added dropwise and the reaction was stirred at this temperature for another 15 min. The reaction was warmed to −75 deg C., stirred for another 15 min., warmed to 0 deg C., stirred again for 15 min. and then 6.85 mL acetic acid (50% in water) and 0.12 g 35% hydrogen peroxide solution were added successively. The cooling bath was removed and the reaction was stirred for 1 h at room temperature. The reaction mixture was extracted with 10% aqueous thiosulfate solution, the organic layer was washed with brine, dried over magnesium sulfate and filtered. The solvent was removed at a rotary evaporator and the residue was purified by column chromatography on silica gel (0.032–0.063 mm) with ethyl acetate:n-hexane (1:1) as eluant to give the compound as a light yellow solid (75.4%).

reactant | (4R,9aR)-7-bromo-4,6-dimethyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 14.1 mmol, 5.40 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)C)Br | C17H24BrN3O2
reactant | triisopropyl borate | 27.7 mmol, 6.30 mL, 5.13 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | tert-butyllithium | 16.9 mmol, 1.5 M, 11.3 mL | C(C)(C)(C)[Li]
reactant | hydrogen peroxide | 0.12 g | OO | H2O2
solvent | diethyl ether | 350 mL | C(C)OCC | C4H10O
solvent | acetic acid | 6.85 mL | C(C)(=O)O | C2H4O2
product | (4R,9aR)-7-Hydroxy-4,6-dimethyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 75.4% | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)C)O | C17H25N3O3
